US05559081
(a) 5-(4,6-Dimethoxypyrimidin-2-ylthio)-3-methyl-4-nitro-1H-pyrazole
4,6-Dimethoxy-2-mercaptopyrimidine (4.65 g) was dissolved in water containing potassium hydroxide (1.7 g in 75 mls of water). 1,4-Dinitro-3-methylpyrazole (4.65 g) dissolved in the minimum of ethanol was then added dropwise. After the exothermic reaction had subsided, the mixture was stirred for 45 minutes. The precipitated solid was filtered off, washed with fresh water, and dried to give 6.3 g of the desired product, mp 175°-6° C.

reactant | 4,6-Dimethoxy-2-mercaptopyrimidine | 4.65 g | COC1=NC(=NC(=C1)OC)S | C6H8N2O2S
reactant | potassium hydroxide | 75 mls, 1.7 g | [OH-].[K+]
reactant | 1,4-Dinitro-3-methylpyrazole | 4.65 g | [N+](=O)([O-])N1N=C(C(=C1)[N+](=O)[O-])C | C4H4N4O4
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-(4,6-Dimethoxypyrimidin-2-ylthio)-3-methyl-4-nitro-1H-pyrazole | 6.3 g | COC1=NC(=NC(=C1)OC)SC1=C(C(=NN1)C)[N+](=O)[O-] | C10H11N5O4S
